US20010012901A1
A solution of potassium tert-butoxide (1.92 g) in THF (10 ml) was added dropwise to a solution of 2-(2,5,7,8-tetramethylchroman-2-yl)ethanol (4.00 g) and ethyl bromoacetate (2.00 ml) in THF (20 ml) at 0-10° C. and the mixture was stirred for 30 minutes under same condition. After addition of ethyl bromoacetate (1.90 ml), a solution of potassium tert-butoxide (1.92 g) in THF (10 ml) was added dropwise and the mixture was stirred at 0-10° C. for 30 minutes. This procedure was repeated 3 times. A solution of NaOH (5.0 g) in water (10 ml) was added and heated at 50-55° C. for 5 hours. The mixture was adjusted to pH 3 with 6N hydrochloric acid (6N HCl) and extracted with AcOEt. The organic phase was dried over MgSO4 and concentrated under reduced pressure to give a syrup. A mixture of the syrup and a cation-exchange resin, Amberlyst® 15 (1 g) in MeOH (100 ml) was heated under reflux for 30 hours. After removal of catalyst, the solution was concentrated under reduced pressure to give a syrup. The syrup was purified by chromatography over silica gel (AcOEt-hexane 5:95) to give methyl [2-(2,5,7,8-tetramethylchroman-2-yl)ethoxy]acetate as an oil (3.37 g).

reactant | potassium tert-butoxide | 1.92 g | CC(C)([O-])C.[K+]
reactant | 2-(2,5,7,8-tetramethylchroman-2-yl)ethanol | 4.00 g | CC1(OC2=C(C(=CC(=C2CC1)C)C)C)CCO | C15H22O2
reactant | ethyl bromoacetate | 2.00 ml | BrCC(=O)OCC | C4H7BrO2
reactant | ethyl bromoacetate | 1.90 ml | BrCC(=O)OCC | C4H7BrO2
reactant | potassium tert-butoxide | 1.92 g | CC(C)([O-])C.[K+]
reactant | NaOH | 5.0 g | [OH-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
solvent | MeOH | 100 ml | CO | CH4O
product | methyl [2-(2,5,7,8-tetramethylchroman-2-yl)ethoxy]acetate | 3.37 g | CC1(OC2=C(C(=CC(=C2CC1)C)C)C)CCOCC(=O)OC | C18H26O4
